US07888364B2
1 g of 4-(chlorosulfonyl)benzoic acid was reacted with 570 mg of 2,6-dimethylpiperazine via Procedure H. 75 mg of 4-chloro-3-(pyridin-2-yl)aniline was coupled to 119 mg of 4-(3,5-dimethylpiperazin-1-ylsulfonyl)benzoic acid via Procedure G and purified by reverse phase HPLC to yield N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3,5-dimethylpiperazin-1-ylsulfonyl)benzamide. MS (Q1) 485.4 (M)+.

reactant | 4-(chlorosulfonyl)benzoic acid | 1 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 2,6-dimethylpiperazine | 570 mg | CC1NC(CNC1)C | C6H14N2
reactant | 4-chloro-3-(pyridin-2-yl)aniline | 75 mg | ClC1=C(C=C(N)C=C1)C1=NC=CC=C1 | C11H9ClN2
reactant | 4-(3,5-dimethylpiperazin-1-ylsulfonyl)benzoic acid | 119 mg | CC1CN(CC(N1)C)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C13H18N2O4S
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(3,5-dimethylpiperazin-1-ylsulfonyl)benzamide | ClC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)S(=O)(=O)N1CC(NC(C1)C)C)=O)C1=NC=CC=C1 | C24H25ClN4O3S
